US08497374B2
1N HCl (37.1 mL) was added dropwise into a mixture of pinacol N-(pyrazine-2-yl-carbonyl)-L-phenylalanine-L-leucine boronate ([8]; 5.77 g, 12.4 mmol as a 22.0 (R,S)-[8])/(S,S)-[8] diastereomeric mixture) and 2-methylpropaneboronic acid (1.89 g, 18.5 mmol) in MeOH (57.7 mL) and n-heptane (57.7 mL). The reaction mixture was stirred at room temperature overnight. The water layer was separated and washed twice with n-heptane (30 mL each). The water layer was concentrated at 35° C. and DCM (30 mL) was added into the residue. 2 N NaOH (36.9 mL) was added dropwise into the reaction mixture. The water layer was separated and washed twice with DCM (30 mL each). After dilution with DCM (30 mL) 1N HCl was added dropwise until the pH of the aqueous phase was about 6. The water layer was extracted twice with DCM (30 mL each). The DCM portions were collected together and concentrated at 35° C. Ethyl acetate (46 mL) was added into the residue and concentrated. Ethyl acetate (16 mL) was added into the residue and concentrated until approximately 10% of the original volume remained. n-Heptane (46 mL) was added and the resulting solid was then filtered, washed with n-heptane (20 mL) and dried under vacuum at 35° C. The crude bortezomib was obtained as yellow solid (3.7 g, 9.63 mmol).

reactant | HCl | 1N, 37.1 mL | Cl | ClH
reactant | pinacol N-(pyrazine-2-yl-carbonyl)-L-phenylalanine L-leucine boronate | N1=C(C=NC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O.OC(C)(C)C(C)(C)O.B(O)O.N[C@@H](CC(C)C)C(=O)O
reactant | 2-methylpropaneboronic acid | 18.5 mmol, 1.89 g | CC(CB(O)O)C | C4H11BO2
solvent | MeOH | 57.7 mL | CO | CH4O
solvent | n-heptane | 57.7 mL | CCCCCCC | C7H16
product | bortezomib | B([C@H](CC(C)C)NC(=O)[C@H](CC=1C=CC=CC1)NC(=O)C=2C=NC=CN2)(O)O | C19H25BN4O4
